US05508385
After N-benzyloxycarbonyl-L-phenylalanyl-L-argininal dibutylacetal hydrochloride (1.24 g, 2.05 mmols) was dissolved in methanol (100 ml), palladium black (1 g) was added to the solution. The mixture was stirred at room temperature for 2 hours in a hydrogen flow. After completion of the reaction, the catalyst was filtered off and the filtrate was concentrated to give 0.93 g (96%) of L-phenylalanyl-L-argininal dibutylacetal hydrochloride as oil.

reactant | N-benzyloxycarbonyl-L-phenylalanyl-L-argininal dibutylacetal hydrochloride | 2.05 mmols, 1.24 g | Cl.C(CCC)OC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O)CCCNC(N)=N)OCCCC
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium black | 1 g | [Pd] | Pd
product | L-phenylalanyl-L-argininal dibutylacetal hydrochloride | 0.93 g, 96% | Cl.C(CCC)OC([C@@H](NC([C@@H](N)CC1=CC=CC=C1)=O)CCCNC(N)=N)OCCCC | InChI=1S/C23H41N5O3.ClH/c1-3-5-15-30-22(31-16-6-4-2)20(13-10-14-27-23(25)26)28-21(29)19(24)17-18-11-8-7-9-12-18;/h7-9,11-12,19-20,22H,3-6,10,13-17,24H2,1-2H3,(H,28,29)(H4,25,26,27);1H/t19-,20-;/m0./s1
